### PR TITLE
feat: define total variation distance

### PR DESCRIPTION
**Pull request by RemyDegenne**
Define the total variation distance between two finite measures, using the variation of the difference seen as signed measures.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/InformationTheory/TotalVariation/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,203 @@
...
+
+-/
+
+@[expose] public section
+
+open MeasureTheory
+
+open scoped ENNReal
+
+namespace InformationTheory
```
Comment (DavidLedvinka) [inline Mathlib/InformationTheory/TotalVariation/Defs.lean]: I think these shouldn't be in the InformationTheory namespace since they are used a lot more generally.
Also would it then be fine to definite the names as `VectorMeasure.tvDist` and `Measure.tvDist`?

File: Mathlib/InformationTheory/TotalVariation/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,203 @@
...
+
+end VectorMeasure
+
+section Measure
+
+variable {μ ν : Measure 𝓧} [IsFiniteMeasure μ] [IsFiniteMeasure ν]
+
+/-- Total variation distance between two finite measures. -/
+noncomputable def tvDist (μ ν : Measure 𝓧) [IsFiniteMeasure μ] [IsFiniteMeasure ν] : ℝ :=
+  (vecTVDist μ.toSignedMeasure ν.toSignedMeasure).toReal
```
Comment (DavidLedvinka) [inline Mathlib/InformationTheory/TotalVariation/Defs.lean]: Seems a bit weird to me to make this one real but the vector one ENNReal.

File: Mathlib/InformationTheory/TotalVariation/Defs.lean (hunk 1 above)
Comment (RemyDegenne) [reply Mathlib/InformationTheory/TotalVariation/Defs.lean]: You're right. I've been putting all divergences/distances in my projects into the InformationTheory namespace, but TV should be in something more widely used, like MeasureTheory. What about `MeasureTheory.VectorMeasure.tvDist` and `MeasureTheory.tvDist`? We don't usually open the `Measure` namespace and I'd like `tvDist` for measures to be short and easily usable from the standard case of `MeasureTheory` open but not `Measure`.

File: Mathlib/InformationTheory/TotalVariation/Defs.lean (hunk 2 above)
Comment (RemyDegenne) [reply Mathlib/InformationTheory/TotalVariation/Defs.lean]: This one is always finite, so I thought it could be simpler to use with a value in Real.

Comment (EtienneC30) [reply Mathlib/InformationTheory/TotalVariation/Defs.lean]: I think at some point we will want a real version anyway to endow the space of measures with a metric space structure (and also a Banach space structure for vector measures with finite variation).

Comment (DavidLedvinka) [reply Mathlib/InformationTheory/TotalVariation/Defs.lean]: I agree with this but I just personally find it confusing to have there be no distinction for the name. In particular for your point about Banach space structure we would want both. Maybe the ENNReal vector version could be eTVDist (to match `eVariation` for functions)?

File: Mathlib/InformationTheory/TotalVariation/Defs.lean (hunk 1 above)
Comment (DavidLedvinka) [reply Mathlib/InformationTheory/TotalVariation/Defs.lean]: The suggestion was because in theory one could use dot notation although perhaps that would just look worse here and should be discouraged. I am fine with either option.

File: Mathlib/InformationTheory/TotalVariation/Defs.lean (hunk 2 above)
Comment (EtienneC30) [reply Mathlib/InformationTheory/TotalVariation/Defs.lean]: I totally agree that the ENNReal version should start with e.

File: Mathlib/InformationTheory/TotalVariation/Defs.lean (hunk 1 above)
Comment (RemyDegenne) [reply Mathlib/InformationTheory/TotalVariation/Defs.lean]: I very much prefer `tvDist P Q` to `P.tvDist Q`, if that's the use of dot notation you had in mind.

File: Mathlib/InformationTheory/TotalVariation/Defs.lean (hunk 2 above)
Comment (RemyDegenne) [reply Mathlib/InformationTheory/TotalVariation/Defs.lean]: So, let's have 3 defs? `VectorMeasure.eTVDist` for vector measures, and `eTVDist` and `tvDist` for measures? The first two are ENNReal-valued, the last one Real-valued.

Comment (DavidLedvinka) [reply Mathlib/InformationTheory/TotalVariation/Defs.lean]: I guess its unclear if `eTVDist` is needed for Measures. But we should have eTVDist and TVDist for VectorMeasure eventually, though its probably fine if you dont want to add API for it to just use the name eTVDist for now so that someone else can add TVDist for vector measures later? 
(and I guess my overall point was that I would prefer eTVDist for the ennreal valued one even if both didn't exist)

Comment (RemyDegenne) [reply Mathlib/InformationTheory/TotalVariation/Defs.lean]: The PR now has `VectorMeasure.eTVDist`, `eTVDist` and `tvDist`. Having `eTVDist` for measures introduces duplication but it could be useful in ENNReal-heavy contexts. I'm thinking for example of comparisons of TV with other divergences.

File: Mathlib/MeasureTheory/VectorMeasure/TotalVariation.lean
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/TotalVariation.lean:1]: Should we define an `EMetricSpace` instance? Or should it go on a type synonym?

Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/TotalVariation.lean:1]: Please remove all the `VectorMeasure.` namespaces.

File: Mathlib/MeasureTheory/VectorMeasure/TotalVariation.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+
+lemma eTVDist_eq_eTVDist_sub_zero : eTVDist μ ν = eTVDist (μ - ν) 0 := by simp [eTVDist]
+
+lemma eTVDist_restrict_add_compl {s : Set 𝓧} (hs : MeasurableSet s) :
+    eTVDist (μ.restrict s) (ν.restrict s) + eTVDist (μ.restrict sᶜ) (ν.restrict sᶜ) =
+      eTVDist μ ν := by
+  simp_rw [eTVDist, ← VectorMeasure.restrict_sub, VectorMeasure.variation_restrict hs,
+    VectorMeasure.variation_restrict hs.compl]
+  simp only [MeasurableSet.univ, Measure.restrict_apply, Set.univ_inter]
+  simp [← measure_union disjoint_compl_right hs.compl]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/TotalVariation.lean:81]:
```suggestion
  simp [eTVDist, ← VectorMeasure.restrict_sub, variation_restrict hs, variation_restrict hs.compl,
    MeasurableSet.univ, Measure.restrict_apply, Set.univ_inter,
    ← measure_union disjoint_compl_right hs.compl]
```

File: Mathlib/MeasureTheory/Measure/TotalVariation/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,199 @@
...
+    ← VectorMeasure.restrict_toSignedMeasure hs.compl,
+    VectorMeasure.eTVDist_restrict_add_compl hs]
+
+lemma eTVDist_of_ge (hμν : ν ≤ μ) : eTVDist μ ν = μ Set.univ - ν Set.univ := by
+  calc eTVDist μ ν
+  _ = eTVDist (μ - ν) 0 := by
+    simp only [eTVDist_eq_iSup_finPartition_abs, measureReal_zero, Pi.zero_apply, sub_zero]
+    congr with P
+    congr with s
+    congr 1
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Defs.lean:119]:
```suggestion
    congrm ⨆ P, ∑ s ∈ _, ‖?_‖ₑ
```

File: Mathlib/MeasureTheory/Measure/TotalVariation/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,199 @@
...
+    eTVDist μ ν ≠ ∞ := (eTVDist_lt_top μ ν).ne
+
+lemma eTVDist_eq_iSup_finPartition_abs :
+    eTVDist μ ν =
+      ⨆ (P : Finpartition (⟨.univ, .univ⟩ : Subtype (MeasurableSet (α := 𝓧)))),
+        ∑ p ∈ P.parts, ‖μ.real p - ν.real p‖ₑ := by
+  rw [eTVDist, VectorMeasure.eTVDist_eq_iSup_finPartition_enorm]
+  simp only [Measure.toSignedMeasure_apply]
+  congr with P
+  congr with s
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Defs.lean:79]:
```suggestion
    congrm ⨆ P, ∑ s ∈ _, ?_
```

File: Mathlib/MeasureTheory/Measure/TotalVariation/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,199 @@
...
+  _ = (μ - ν) Set.univ := by simp
+  _ = μ Set.univ - ν Set.univ := by rw [Measure.sub_apply .univ hμν]
+
+lemma eTVDist_of_le (hμν : μ ≤ ν) : eTVDist μ ν = ν Set.univ - μ Set.univ := by
+  rw [eTVDist_comm, eTVDist_of_ge hμν]
+
+lemma eTVDist_le_add : eTVDist μ ν ≤ μ Set.univ + ν Set.univ := by
+  calc eTVDist μ ν
+  _ ≤ eTVDist μ 0 + eTVDist 0 ν := eTVDist_triangle _ _ _
+  _ = μ Set.univ + ν Set.univ := by simp [eTVDist_zero_right, eTVDist_zero_left]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Defs.lean:131]:
```suggestion
  _ = μ Set.univ + ν Set.univ := by simp
```

File: Mathlib/MeasureTheory/Measure/TotalVariation/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,199 @@
...
+  rw [tvDist, eTVDist_of_ge hμν, ENNReal.toReal_sub_of_le (hμν .univ) (by simp), Measure.real,
+    Measure.real]
+
+lemma tvDist_of_le (hμν : μ ≤ ν) : tvDist μ ν = ν.real Set.univ - μ.real Set.univ := by
+  rw [tvDist_comm, tvDist_of_ge hμν]
+
+lemma tvDist_le_add : tvDist μ ν ≤ μ.real Set.univ + ν.real Set.univ := by
+  calc tvDist μ ν
+  _ ≤ tvDist μ 0 + tvDist 0 ν := tvDist_triangle _ _ _
+  _ = μ.real Set.univ + ν.real Set.univ := by simp [tvDist_zero_right, tvDist_zero_left]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Defs.lean:195]:
```suggestion
  _ = μ.real Set.univ + ν.real Set.univ := by simp
```

File: Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,173 @@
...
+public import Mathlib.MeasureTheory.Measure.Decomposition.Hahn
+public import Mathlib.MeasureTheory.Measure.Decomposition.Lebesgue
+public import Mathlib.MeasureTheory.Measure.MutuallySingular
+public import Mathlib.MeasureTheory.Measure.TotalVariation.Defs
+public import Mathlib.MeasureTheory.Measure.WithDensity
+public import Mathlib.MeasureTheory.Integral.Bochner.Basic
+
+import Mathlib.MeasureTheory.Integral.Bochner.Set
+import Mathlib.MeasureTheory.Measure.Decomposition.IntegralRNDeriv
+import Mathlib.MeasureTheory.Measure.Decomposition.RadonNikodym
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean:17]:
```suggestion
public import Mathlib.MeasureTheory.Measure.Decomposition.Lebesgue
public import Mathlib.MeasureTheory.Measure.TotalVariation.Defs
public import Mathlib.MeasureTheory.Integral.Bochner.Basic

import Mathlib.MeasureTheory.Measure.Decomposition.IntegralRNDeriv
```

File: Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,173 @@
...
+lemma eTVDist_eq_of_isHahnDecomposition {s : Set 𝓧} (h : IsHahnDecomposition μ ν s) :
+    eTVDist μ ν = ν s - μ s + (μ sᶜ - ν sᶜ) := by
+  rw [← eTVDist_restrict_add_compl h.measurableSet, eTVDist_of_le h.le_on,
+    eTVDist_of_ge h.ge_on_compl]
+  simp
+
+lemma tvDist_eq_of_isHahnDecomposition {s : Set 𝓧} (h : IsHahnDecomposition μ ν s) :
+    tvDist μ ν = ν.real s - μ.real s + (μ.real sᶜ - ν.real sᶜ) := by
+  rw [← tvDist_restrict_add_compl h.measurableSet, tvDist_of_le h.le_on, tvDist_of_ge h.ge_on_compl]
+  simp
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean:59]: I'd suggest calling these `IsHahnDecomposition....` to have dot notation.

File: Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,173 @@
...
+
+lemma tvDist_withDensity_self_eq_integral {f : 𝓧 → ℝ≥0∞} (hf : Measurable f)
+    (hf_top : ∀ᵐ x ∂μ, f x ≠ ∞)
+    [IsFiniteMeasure (μ.withDensity f)] :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean:63]: I think `hf_top` is implied by the `IsFiniteMeasure` condition?

Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean:63]:
```suggestion
    (hf_top : ∀ᵐ x ∂μ, f x ≠ ∞) [IsFiniteMeasure (μ.withDensity f)] :
```

File: Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,173 @@
...
+        simp only [tsub_le_iff_right, zero_add]
+        rw [← ENNReal.toReal_one]
+        gcongr
+  _ = ∫ x, |1 - (f x).toReal| ∂μ := by
+    refine integral_add_compl (measurableSet_le hf measurable_const) ?_
+    exact (Integrable.sub (by simp) hf_int).abs
+
+lemma eTVDist_withDensity_self_eq_lintegral {f : 𝓧 → ℝ≥0∞} (hf : Measurable f)
+    (hf_top : ∀ᵐ x ∂μ, f x ≠ ∞)
+    [IsFiniteMeasure (μ.withDensity f)] :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean:108]: ditto

File: Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,173 @@
...
+    eTVDist (μ.withDensity f) μ = ∫⁻ x, ‖1 - (f x).toReal‖ₑ ∂μ := by
+  rw [← ofReal_tvDist, tvDist_withDensity_self_eq_integral hf hf_top,
+    ofReal_integral_eq_lintegral_ofReal]
+  · congr with x
+    rw [← Real.norm_eq_abs, ofReal_norm]
+  · refine (Integrable.sub (by simp) ?_).abs
+    rw [integrable_toReal_iff (by fun_prop) hf_top, ← setLIntegral_univ,
+      ← withDensity_apply _ .univ]
+    exact measure_ne_top _ _
+  · filter_upwards [] with _ using by positivity
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean:118]:
```suggestion
  · filter_upwards with using by positivity
```
I am wondering whether this is not slightly better, empty filter_upwards feels strange plus I think running tactics in the `using` part is not encouraged:
```suggestion
  · exact .of_forall fun _ ↦ by positivity
```

File: Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,173 @@
...
+
+lemma tvDist_eq_integral_abs_rnDeriv_of_ac (hμν : μ ≪ ν) :
+    tvDist μ ν = ∫ x, |1 - (μ.rnDeriv ν x).toReal| ∂ν := by
+  have : tvDist μ ν = tvDist (ν.withDensity (μ.rnDeriv ν)) ν := by
+    congr
+    rw [Measure.withDensity_rnDeriv_eq _ _ hμν]
+  rw [this, tvDist_withDensity_self_eq_integral (by fun_prop) (Measure.rnDeriv_ne_top μ ν)]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean:125]: The fact that this is not a straightforward `rw` means we'll have to remove the `IsFiniteMeasure` hypothesis from `Measure.toSignedMeasure`.
```suggestion
  conv_lhs => rw! [← μ.withDensity_rnDeriv_eq ν hμν,
    tvDist_withDensity_self_eq_integral (by fun_prop) (Measure.rnDeriv_ne_top μ ν)]
```

File: Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,173 @@
...
+
+lemma eTVDist_eq_lintegral_enorm_rnDeriv_of_ac (hμν : μ ≪ ν) :
+    eTVDist μ ν = ∫⁻ x, ‖1 - (μ.rnDeriv ν x).toReal‖ₑ ∂ν := by
+  have : eTVDist μ ν = eTVDist (ν.withDensity (μ.rnDeriv ν)) ν := by
+    congr
+    rw [Measure.withDensity_rnDeriv_eq _ _ hμν]
+  rw [this, eTVDist_withDensity_self_eq_lintegral (by fun_prop) (Measure.rnDeriv_ne_top μ ν)]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean:132]:
```suggestion
  conv_lhs => rw! [← μ.withDensity_rnDeriv_eq ν hμν,
    eTVDist_withDensity_self_eq_lintegral (by fun_prop) (Measure.rnDeriv_ne_top μ ν)]
```

File: Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,173 @@
...
+
+lemma tvDist_add_of_ac_of_mutuallySingular {μ' : Measure 𝓧} [IsFiniteMeasure μ']
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean:134]: Can you also add versions where you just have `μ ⟂ₘ ν`?

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean:133]: Sorry, I don't get what lemma you want.

File: Mathlib/MeasureTheory/VectorMeasure/TotalVariation.lean
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/VectorMeasure/TotalVariation.lean:1]: I'm not sure. I did not do it because I was influenced by the situation for `Measure`, for which there are many possible useful distances and there is no reason to choose that one. But for `VectorMeasure` I don't know, it might be the natural distance. I'm thinking about it.

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/VectorMeasure/TotalVariation.lean:1]: I don't think this distance between vector measures can be argued to be the single or most important one, so I don't want to add an instance in this PR.

File: Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean (hunk 15 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/Measure/TotalVariation/Basic.lean:133]: Sorry it's already there.

**Comment by kex-y** [comment]
Can we remove `SignedMeasure.totalVariation` (which was defined via Jordan decomposition) and state that definition as a lemma using the total variation defined here?
